US05110818
A mixture of 0.5 g (3.1 mmol) of 5-amino-2,4-dichloropyrimidine [D. T. Hurst, Heterocycl. 22, 79 (1984)], 0.35 ml (3.1 mmol) of 2-fluorobenzylamine and 0.46 ml (3.4 mmol) of triethylamine in 8 ml of 1-butanol is heated under reflux for 24 hours. The reaction mixture is then cooled to 0°. The resulting beige-coloured suspension is filtered with suction and the filter cake is washed with cyclohexane and suspended in water for 30 minutes at room temperature with stirring. The suspension is again filtered with suction and the filter cake is dried under a high vacuum at 100° over tetraphosphorus decaoxide. In this manner 5-amino-2-chloro-4-[N-(2-fluorobenzyl)amino]-pyrimidine is obtained in the form of beige-coloured crystals having a melting range of from 224° to 225°.

reactant | 5-amino-2,4-dichloropyrimidine | 3.1 mmol, 0.5 g | NC=1C(=NC(=NC1)Cl)Cl | C4H3Cl2N3
reactant | 2-fluorobenzylamine | 3.1 mmol, 0.35 ml | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | triethylamine | 3.4 mmol, 0.46 ml | C(C)N(CC)CC | C6H15N
solvent | 1-butanol | 8 ml | C(CCC)O | C4H10O
product | 5-amino-2-chloro-4-[N-(2-fluorobenzyl)amino]-pyrimidine | NC=1C(=NC(=NC1)Cl)NCC1=C(C=CC=C1)F | C11H10ClFN4
